US08956613B2
Preparation of 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(ethoxycarbonylamino)pyrimidin-2-one (8).
Using Method A and ethyl chloroformate, gemcitabine hydrochloride was converted to 8 (white solid, 64% yield): 1H NMR (400 MHz, DMSO-d6)δ10.88 (s, 1H), 8.24-8.27 (d, 1H), 7.13-7.16 (d, 1H), 6.34-6.37 (d, 1H), 6.18-6.22 (t, 1H), 5.32-5.36 (t, 1H), 4.17-4.23 (m, 3H), 3.90-3.94 (m, 1H), 3.82-3.86 (m, 1H), 3.65-3.72 (m, 1H), 1.25-1.29 (t, 3H); MS (HR-ESI): m/z 334.0853 [M−H]−.

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | gemcitabine hydrochloride | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F.Cl
product | 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(ethoxycarbonylamino)pyrimidin-2-one | 64% yield | FC1([C@@H](O[C@@H]([C@H]1O)CO)N1C(N=C(C=C1)NC(=O)OCC)=O)F | C12H15F2N3O6
